US04082843
A stirred mixture of 6-[3-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (10 g, 0.04 mole), methanol (100 ml), and isopropylamine (20.8 ml, 0.24 mole) was heated under reflux for 90 minutes. Evaporation of the solution under reduced pressure gave a white solid which, when treated with ether, gave crude 6-[3-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (11.7 g, 94%, m.p. 137°-141° C). The hemisulphate, recrystallised from aqueous methanol-ether, had m.p. 256°-258° C.

reactant | 6-[3-(2,3-epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.04 mole, 10 g | O1C(COC=2C=C(C=CC2)C=2CCC(NN2)=O)C1 | C13H14N2O3
reactant | methanol | 100 ml | CO | CH4O
reactant | isopropylamine | 0.24 mole, 20.8 ml | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | 6-[3-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 11.7 g, 94% | OC(COC=1C=C(C=CC1)C=1CCC(NN1)=O)CNC(C)C | C16H23N3O3
